US06127354
2-(2-thienyl)ethylamine (15.0 g, 118 mmol) was dissolved in formic acid (120 ml) while cooling with an water bath. The solution was cooled to 0° C. Acetic acid anhydride (45 ml) was added dropwise. The reaction mixture was stirred at room temperature for 3 h. It was cooled to 0° C., and water (45 ml) was added dropwise. The mixture was stirred for 16 h, while it was warming up to room temperature. The solvent was removed in vacuo. The residue was dissolved in ethyl acetate (300 ml). The solution was washed with water (2×150 ml) and saturated sodium hydrogen carbonate solution (200 ml). It was dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (180 g), using ethyl acetate/heptane (2:1) as eluent to give 14.30 g of N-(2-(2-thienyl)ethyl)formamide.

reactant | 2-(2-thienyl)ethylamine | 118 mmol, 15.0 g | S1C(=CC=C1)CCN | C6H9NS
reactant | Acetic acid anhydride | 45 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 45 ml | O | H2O
solvent | formic acid | 120 ml | C(=O)O | CH2O2
product | N-(2-(2-thienyl)ethyl)formamide | 14.30 g | S1C(=CC=C1)CCNC=O | C7H9NOS
